US04657893
Preparation of Methyl 2-(3-n-butylureido)-benzoate.
To a solution of 13.55 gm of methyl anthranilate in 12 ml dry tetrahydrofuran, was added 8.9 ml of n-butyl isocyanate dropwise. The solution was stirred for 51/2 days and filtered. The filtrate was reduced to half of its original volume and further precipitated with hexane and filtered. The two residues were combined to yield the title compound as a white solid, m.p. 84°-85° C.; NMR(delta CDCl3): 0.79, 1.02 (m, 3H, CH3), 1.16-1.76 (m, 4H, CH2CH2), 3.27 (t, 2H, NCH2), 3.87 (s, 3H, OCH3), 4.82 (br, 1H, NH), 6.81-8.59 (m, 4H, ArH), 11.09 (s, 1H, NH). IR: 3305, 3260, 1708, 1642, 1560 cm-1.

reactant | methyl anthranilate | 13.55 gm | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | n-butyl isocyanate | 8.9 ml | C(CCC)N=C=O | C5H9NO
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | Methyl 2-(3-n-butylureido)-benzoate | C(CCC)NC(NC1=C(C(=O)OC)C=CC=C1)=O | C13H18N2O3
